US08247403B2
(1) 4-(tert-butoxycarbonyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine-9-carboxylic acid
To a solution of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (200 mg, 0.605 mmol) in tetrahydrofuran (4 ml) was added 1.6N solution of n-butyllithium in hexane (0.396 ml, 0.634 mmol) at −78° C., and the mixture was stirred at 78° C. for 1 hr. At −78° C., pulverized dry ice (2 g) was added to the reaction mixture, and the mixture was stirred for 1 hr. Saturated aqueous ammonium chloride solution (5 ml) and 1N hydrochloric acid (5 ml) were added, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give the desired product (40.0 mg, 22.6%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.605 mmol, 200 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.634 mmol, 0.396 ml | CCCCCC | C6H14
reactant | dry ice | 2 g | C(=O)=O | CO2
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-(tert-butoxycarbonyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine-9-carboxylic acid | 40.0 mg, 22.6% | C(C)(C)(C)OC(=O)N1CCOC2=C(C1)C=CC=C2C(=O)O | C15H19NO5
